US05759739
Synthesis of p-butoxystyrene/p-hydroxystyrene/t-butyl acrylate copolymer
In an autoclave equipped with a 1.0-liter glass polymerization vessel and purged with nitrogen, polymerization reaction was carried out by dissolving 19.4 grams (0.11 mol) of p-butoxystyrene, 13.2 grams (0.11 mol) of p-hydroxystyrene and 25.0 grams (0.20 mol) of t-butyl acrylate in 300 grams of acetone, adding 3.5 grams of t-butylperoxy(2-ethylhexanoate) as a polymerization catalyst, and heating the mixture at 90° C. Thereafter, the catalyst was added in incremental amounts, that is, 1.0 grams after 21/2 hours and 1.0 grams after 41/2 hours from the start of polymerization reaction. After 6 hours of polymerization, the reaction solution was cooled down and the acetone was distilled off. A 9/1 methanol/water mixture was added to the reaction solution, causing the copolymer to crystallize. The copolymer had a weight average molecular weight (Mw) of 6,900, a dispersity (Mw/Mn) of 1.72, and a copolymerization ratio (p-butoxystyrene/p-hydroxystyrene/t-butyl acrylate) of 1:1:2. The yield was 70.0%.

reactant | p-butoxystyrene | 0.11 mol, 19.4 grams | C(CCC)OC1=CC=C(C=C)C=C1 | C12H16O
reactant | p-hydroxystyrene | 0.11 mol, 13.2 grams | OC1=CC=C(C=C)C=C1 | C8H8O
reactant | t-butyl acrylate | 0.20 mol, 25.0 grams | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | t-butylperoxy(2-ethylhexanoate) | 3.5 grams | C(C)(C)(C)OOC(C(=O)[O-])(CCCC)CC
solvent | acetone | 300 grams | CC(=O)C | C3H6O
product | p-butoxystyrene p-hydroxystyrene t-butyl acrylate | yield was 70.0% | C(CCC)OC1=CC=C(C=C)C=C1.OC1=CC=C(C=C)C=C1.C(C=C)(=O)OC(C)(C)C | InChI=1S/C12H16O.C8H8O.C7H12O2/c1-3-5-10-13-12-8-6-11(4-2)7-9-12;1-2-7-3-5-8(9)6-4-7;1-5-6(8)9-7(2,3)4/h4,6-9H,2-3,5,10H2,1H3;2-6,9H,1H2;5H,1H2,2-4H3
